US05747518
2) 3-amino-2-phenylthiophene
The same procedures as described in Example 3 were carried out except that 3-nitro-2-(4-chlorophenyl)thiophene was replaced by 3-nitro-2-phenylthiophene. The yield was 81%. 1H-NMR(CDCl3, δ value):3.82(2H, brs), 6.66(1H, d, J=5.1), 7.12(1H, d, J=5.1), 7.22-7.29(1H, m), 7.42(2H, dt, J=1.5, 7.3), 7.52(2H, dd, J=1.5, 7.3)

reactant | 3-nitro-2-(4-chlorophenyl)thiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)Cl | C10H6ClNO2S
reactant | 3-nitro-2-phenylthiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC=CC=C1 | C10H7NO2S
product | 3-amino-2-phenylthiophene | yield was 81% | NC1=C(SC=C1)C1=CC=CC=C1 | C10H9NS
